US08106073B2
d) 6-Chloro-N-[(1-hydroxycycloheptyl)methyl]-2-{(3S)-3-[(2-hydroxyethyl)amino]-pyrrolidin-1-yl}quinoline-5-carboxamide
To a solution of 2-{(3S)-3-[(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)amino]pyrrolidin-1-yl}-6-chloro-N-[(1-hydroxycycloheptyl)methyl]quinoline-5-carboxamide (26.0 g) in tetrahydrofuran (125 ml) was added hydrogen chloride (50 ml, 4M in dioxane) dropwise over ten minutes with ice bath cooling to maintain the internal temperature below 30° C. The mixture was stirred at room temperature for 2.5 hours before being concentrated in vacuo. The crude product was redissolved in MeOH (30 ml) and purified by chromatography (SiO2, 1:4:95-1:10:89 7M N3 in methanol:methanol:dichloromethane as gradient elution). The pure fractions were concentrated in vacuo (20.1 g) and then slurried in acetonitrile:methanol (99:1, 400 ml total volume) for 18 hours before being filtered and washed with acetonitrile (30 ml). The solid was dried in vacuo to afford the title compound as a colourless solid (18.5 g).

reactant | 2-{(3S)-3-[(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)amino]pyrrolidin-1-yl}-6-chloro-N-[(1-hydroxycycloheptyl)methyl]quinoline-5-carboxamide | 26.0 g | [Si](C)(C)(C(C)(C)C)OCCN[C@@H]1CN(CC1)C1=NC=2C=CC(=C(C2C=C1)C(=O)NCC1(CCCCCC1)O)Cl | C30H47ClN4O3Si
reactant | hydrogen chloride | 4M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 6-Chloro-N-[(1-hydroxycycloheptyl)methyl]-2-{(3S)-3-[(2-hydroxyethyl)amino]-pyrrolidin-1-yl}quinoline-5-carboxamide | 18.5 g | ClC1=C(C=2C=CC(=NC2C=C1)N1C[C@H](CC1)NCCO)C(=O)NCC1(CCCCCC1)O | C24H33ClN4O3
